US07049321B2
Synthesis of (S)-2-Ethyl-8-methyl-1-oxo-1λ4-thia-4,8-diaza-spiro[4.5]decan-3-one, AF300
A solution of AF267B (1.72 gr, 0.008 mol) in water (2.5 ml) was cooled (ice-water bath) and trifluoroacetic acid (3.5 ml) was added. To the cold stirred obtained mixture was added hydrogen peroxide (30%, 0.57 ml, 0.008 mol), the cooling bath was removed and the reaction mixture was stirred at room temperature over night. Sodium sulfite was added and the pH of the solution was adjusted to 9 with a saturated solution of sodium carbonate. The aqueous phase was extracted with dichloromethan (2×100 ml) and then with ethyl acetate (1×50 ml). The organic extracts were combined, dried (MgSO4) and the solvent was evaporated. Flash chromatography (silica-gel 60, 230–400 mesh, Merck 1.09385, elution with methanol/chloroform/ammonium hydroxide 10:89:1 v/v) gave AF300. 1H NMR (CDCl3) δ 1.19 (t, j=7.3 Hz, 3H, CH3), 1.85–2.0 (m, 5H), 2.17 (m, 1H), 2.27 (m, 1H), 2.34 (s, 3H, NCH3), 2.26 (m, 2H), 3,30 (dd, j=3.56, 11.13 Hz, CH3CH2CH), 6.37 (br NH) ppm; MS (EI) m/e 230 (M+).

reactant | AF267B | 0.008 mol, 1.72 gr | CC[C@H]1C(=O)NC2(S1)CCN(CC2)C | C10H18N2OS
reactant | trifluoroacetic acid | 3.5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | hydrogen peroxide | 0.008 mol, 0.57 ml | OO | H2O2
solvent | water | 2.5 ml | O | H2O
product | (S)-2-Ethyl-8-methyl-1-oxo-1λ4-thia-4,8-diaza-spiro[4.5]decan-3-one | C(C)C1[S@@](C2(NC1=O)CCN(CC2)C)=O | C10H18N2O2S
